US04276304
1.31 g of 2-benzyloxyphenylglyoxal hydrate are dissolved in 3.5 ml of dimethylsulfoxide, and 0.97 g of α,α-dimethyl-3,4-methylenedioxyphenethylamine are added thereto. The mixture is stirred at 23° C. for 45 minutes, whereby a solution of α-(α,α-dimethyl-3,4-methylenedioxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 1.31 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-3,4-methylenedioxyphenethylamine | 0.97 g | CC(CC1=CC2=C(C=C1)OCO2)(C)N | C11H15NO2
solvent | dimethylsulfoxide | 3.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-3,4-methylenedioxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=CC2=C(C=C1)OCO2)(C)N=C(C(=O)C2=CC=CC=C2)OCC2=CC=CC=C2 | C26H25NO4
